US04295983
In a reaction vessel was placed 1 liter of heptane and 550 grams of octadecenyl succinimide. The mixture was heated to 70° C. with stirring and a mixture of 137 grams of 36% aqueous formaldehyde and 22 grams of sodium bicarbonate was added. This mixture was stirred at reflux for 4 hours. Then 300 ml of water was added and the mixture neutralized with hydrochloric acid. The aqueous layer was separated and removed, then 500 ml butanol was added to the organic layer and the mixture washed with hot water. The organic layer was separated and heptane, butanol and residual water distilled off leaving as the product N-hydroxymethyl-n-octadecenyl succinimide.

reactant | octadecenyl succinimide | 550 grams | C(=CCCCCCCCCCCCCCCCC)C1C(=O)NC(C1)=O | C22H39NO2
reactant | formaldehyde | 137 grams | C=O | CH2O
reactant | sodium bicarbonate | 22 grams | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | heptane | 1 liter | CCCCCCC | C7H16
product | N-hydroxymethyl-n-octadecenyl succinimide | OCN1C(C(CC1=O)C=CCCCCCCCCCCCCCCCC)=O | C23H41NO3
